US05847006
Preparation of N-(5-acenaphthyl)-N'-(2,3,4-trichlorophenyl)guanidine·HCl (METHOD-A (Scheme-1))
A mixture of 5-acenaphthyl cyanamide (0.194 g, 1 mmol) and 2,3,4-trichloroaniline hydrochloride (0.221 g, 0.95 mmol; prepared from 2,3,4-trichloroaniline and 1. ON HCl-ether) were heated at reflux in 5 mL of chlorobenzene. Shortly after reflux temperature was reached all the solids had dissolved to give a clear solution. After a total of 2 hour reflux, the mixture was cooled to 20° C. and allowed to stand for 24 hours. The solid was collected by filtration and washed with excess of methylene chloride and dried in vacuo at 40° C. to give product (0.293 g, 68%) as an off white solid, mp: 208°-10° C.; 1H NMR (CD3OD): δ 7.70-7.58 (m, 3H, Ar--H), 7.48 (d, 2H, J=7.5Hz, Ar--H), 3.47-3.41 (m, 4H, 2×CH2); HRMS 389.0220 (389.0253 calcd. for C19H14N3Cl3); Anal Calcd. for C19H15N3CI4 (427.15): C, 53.42; H, 3.54; N, 9.84; Cl, 33.2; Found: C, 53.25: H, 3.57; N, 9.67; Cl, 33.75.

reactant | 5-acenaphthyl cyanamide | 1 mmol, 0.194 g | C1CC2=CC=C(C3=CC=CC1=C23)NC#N | C13H10N2
reactant | 2,3,4-trichloroaniline hydrochloride | 0.95 mmol, 0.221 g | Cl.ClC1=C(N)C=CC(=C1Cl)Cl
solvent | chlorobenzene | 5 mL | ClC1=CC=CC=C1 | C6H5Cl
product | N-(5-acenaphthyl)-N'-(2,3,4-trichlorophenyl)guanidine·HCl | 0.293 g, 68% | C1CC2=CC=C(C3=CC=CC1=C23)NC(=N)NC2=C(C(=C(C=C2)Cl)Cl)Cl.Cl | InChI=1S/C19H14Cl3N3.ClH/c20-13-7-9-15(18(22)17(13)21)25-19(23)24-14-8-6-11-5-4-10-2-1-3-12(14)16(10)11;/h1-3,6-9H,4-5H2,(H3,23,24,25);1H
